US07244843B2
Step B. Preparation of (R)-1,3,4,10b-tetrahydro-7-trifluoromethoxy-pyrazino[2,1-a]isoindol-6(2H)-one hydrochloride
To a stirring solution of N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-7-trifluoromethoxy-pyrazino[2,1-a]isoindol-6(2H)-one (181 mg, 0.5 mmol) in dry ether (5 mL) was added hydrochloric acid (1 mL). The reaction was stirred for 1 h and then conc. in vacuo to a white solid. The solid was dissolved in water and lyophilized to 147 mg of a white solid. MS (ESI) 309 (M−Cl).

reactant | N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-7-trifluoromethoxy-pyrazino[2,1-a]isoindol-6(2H)-one | 0.5 mmol, 181 mg | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C(C3=C(C=CC=C23)OC(F)(F)F)=O)CC1 | C17H19F3N2O4
reactant | hydrochloric acid | 1 mL | Cl | ClH
solvent | ether | 5 mL | CCOCC | C4H10O
solvent | water | O | H2O
product | (R)-1,3,4,10b-tetrahydro-7-trifluoromethoxy-pyrazino[2,1-a]isoindol-6(2H)-one hydrochloride | Cl.FC(OC1=C2C(N3[C@H](C2=CC=C1)CNCC3)=O)(F)F | InChI=1S/C12H11F3N2O2.ClH/c13-12(14,15)19-9-3-1-2-7-8-6-16-4-5-17(8)11(18)10(7)9;/h1-3,8,16H,4-6H2;1H/t8-;/m0./s1
